US08497381B2
Step 1: (4R,5S)-3-(2-Bromo-5-trifluoromethyl-benzyl)-4-methyl-5-phenyl-oxazolidin-2-one
Prepared according to the procedure described in Example 6, Step 3, using the following starting materials: 2-bromo-5-(trifluoromethyl)benzyl bromide and (4R,5S)-4-methyl-5-phenyl-2-oxazolidinone.

reactant | 2-bromo-5-(trifluoromethyl)benzyl bromide | BrC1=C(CBr)C=C(C=C1)C(F)(F)F | C8H5Br2F3
reactant | (4R,5S)-4-methyl-5-phenyl-2-oxazolidinone | C[C@H]1NC(O[C@H]1C1=CC=CC=C1)=O | C10H11NO2
product | (4R,5S)-3-(2-Bromo-5-trifluoromethyl-benzyl)-4-methyl-5-phenyl-oxazolidin-2-one | BrC1=C(CN2C(O[C@H]([C@H]2C)C2=CC=CC=C2)=O)C=C(C=C1)C(F)(F)F | C18H15BrF3NO2
